US06153652
Synthesis of N-(Phenylacetyl)-L-alanine
Following General Procedure B" above, title compound was prepared from phenylacetyl chloride (Aldrich) and L-alanine (Aldrich) as a solid having a melting point of 102-104° C.

reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | L-alanine | N[C@@H](C)C(=O)O | C3H7NO2
product | N-(Phenylacetyl)-L-alanine | C1(=CC=CC=C1)CC(=O)N[C@@H](C)C(=O)O | C11H13NO3
